US09334290B2
A mixture of 5-bromo-2-(1,3-diethoxy-1,3-dioxopropan-2-yl)-6-fluoro-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid (0.981 g, 2.09 mmol), EDC (0.600 g, 3.13 mmol) and HOBT (0.383 g, 2.50 mmol) in THF (5 mL) was stirred at room temperature for 60 min. The mixture was treated with NH4OH (1.74 mL, 12.5 mmol) and stirred at room temperature overnight. The mixture was diluted with EtOAc, washed sequentially with saturated aqueous Na2CO3 and brine. The combined aqueous layers were extracted with EtOAc, and the combined organic phases were dried and concentrated. The residue was purified by column chromatography on silica gel (40 g), eluting with EtOAc-hexanes (gradient from 0-100%), to provide diethyl 2-(5-bromo-8-carbamoyl-6-fluoro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)malonate as a slightly yellow solid (440 mg, 45% yield). Mass spectrum m/z 469, 471 (M+H)+.

reactant | 5-bromo-2-(1,3-diethoxy-1,3-dioxopropan-2-yl)-6-fluoro-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid | 2.09 mmol, 0.981 g | BrC1=C2C=3CCC(CC3NC2=C(C=C1F)C(=O)O)C(C(=O)OCC)C(=O)OCC | C20H21BrFNO6
reactant | EDC | 3.13 mmol, 0.600 g
reactant | HOBT | 2.50 mmol, 0.383 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH4OH | 12.5 mmol, 1.74 mL | [NH4+].[OH-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | diethyl 2-(5-bromo-8-carbamoyl-6-fluoro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)malonate | BrC1=C2C=3CCC(CC3NC2=C(C=C1F)C(N)=O)C(C(=O)OCC)C(=O)OCC | C20H22BrFN2O5
